US05314885
A mixture of NaH (0.224 g, 7.48 mmol) and DMF (10 mL) was treated slowly with 2,6-piperidinedione (0.846 g, 7.48 mmol) at room temperature. After the addition was complete, the mixture was cooled to 0° C. and a solution of 3-[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzyl chloride (2.46 g, 7.12 mmol) and DMF (10 mL) was added dropwise. The cooling bath was removed and the reaction was stirred at room temperature overnight. A small portion of water was added and the reaction was concentrated under vacuum. The residue was partitioned between CH2Cl2 /water and the organic layer was separated, dried, and evaporated to give 1-[[3-[[1-[2-(1-methylethoxy)phenyl]- 4-piperazinyl]methyl]phenyl]methyl]-piperidine-2,6-dione as an oil, 3.25 g. This material was dissolved in i-PrOH (13 mL) and treated with maleic acid (0.83 g, 7.15 mmol). Trituration with ether, filtration, and drying afforded 1-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]phenyl]methyl]-piperidine-2,6-dione (Z)-2-butenedioate (1:1) as a white solid (2.73 g, 70%), m.p. 103°-105° C. 1H NMR and mass spectral analysis supported the assigned structure.

reactant | NaH | 7.48 mmol, 0.224 g | [H-].[Na+]
reactant | 2,6-piperidinedione | 7.48 mmol, 0.846 g | N1C(CCCC1=O)=O | C5H7NO2
reactant | 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzyl chloride | 7.12 mmol, 2.46 g | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(CCl)C=CC1 | C21H27ClN2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[[3-[[1-[2-(1-methylethoxy)phenyl]- 4-piperazinyl]methyl]phenyl]methyl]-piperidine-2,6-dione | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(C=CC1)CN1C(CCCC1=O)=O | C26H33N3O3
